US04994479
To a mixture of 200 mg of ethyl (4-amino-2-[p-(4-phenylbutoxy)benzamido]phenoxyacetate hydrochloride, 40.5 mg of triethylamine and 5 mg of methylene chloride was added 30 mg of ethyl isocyanate followed by stirring at room temperature overnight. The reaction mixture was treated in a manner similar to Example 68 to obtain 130 mg of ethyl 4-(3-ethylureido)-2-[p-(4-phenylbutoxy)benzamido]phenoxyacetate.

reactant | 4-amino-2-[p-(4-phenylbutoxy)benzamido]phenoxyacetate hydrochloride | Cl.NC1=CC(=C(OCC(=O)O)C=C1)NC(C1=CC=C(C=C1)OCCCCC1=CC=CC=C1)=O
reactant | triethylamine | 40.5 mg | C(C)N(CC)CC | C6H15N
reactant | ethyl isocyanate | 30 mg | C(C)N=C=O | C3H5NO
solvent | methylene chloride | 5 mg | C(Cl)Cl | CH2Cl2
product | ethyl 4-(3-ethylureido)-2-[p-(4-phenylbutoxy)benzamido]phenoxyacetate | 130 mg | C(C)NC(NC1=CC(=C(OCC(=O)OCC)C=C1)NC(C1=CC=C(C=C1)OCCCCC1=CC=CC=C1)=O)=O | C30H35N3O6
